US06589978B2
(2RS,5SR)-3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-1-methyl-1H-[1,2,4]triazole
To a freshly prepared solution of hydrochloric acid in EtOH (10 ml) was added at 0° C. (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonitrile (0.50 g, 1.45 mmol), the reaction mixture was stirred at room temperature for 1.5 h and evaporated. The light brown solid (0.65 g) was dissolved in EtOH (10 ml), methyl-hydrazine (86.9 mg, 1.89 mmol) and triethylamine (0.51 ml, 3.63 mmol) were added and the mixture was stirred at room temperature for 2 h. The reaction mixture was evaporated, subsequently dissolved in formic acid (10 ml), stirred at room temperature for 0.5 h and heated under reflux conditions for 1.5 h. Evaporation, aqueous work-up, column chromatography on silica gel (ethyl acetate) and crystallization from ethyl acetate/hexane yielded the title compound (0.37 g, yield 64%) as a white solid, m.p. 160° C. and MS: m/e=400 (M+).

reactant | hydrochloric acid | Cl | ClH
reactant | (2RS,5SR)-5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidine-2-carbonitrile | 1.45 mmol, 0.50 g | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C#N | C18H17FN2O2S
reactant | methyl-hydrazine | 1.89 mmol, 86.9 mg | CNN | CH6N2
reactant | triethylamine | 3.63 mmol, 0.51 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 10 ml | CCO | C2H6O
product | (2RS,5SR)-3-[5-(4-Fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-1-methyl-1H-[1,2,4]triazole | 0.37 g, yield 64% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)C1=NN(C=N1)C | C20H21FN4O2S
